US07435837B2
Treatment of (±)-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.40 g, 1.06 mmol) with sodium azide (0.17 g, 2.65 mmol) generally according to the procedure described for Intermediate 98 provided (±)-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide. Treatment of the azide with palladium on carbon (0.025 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.181 g (65%) of (±)-1-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp >200° C. (dec); Anal. calcd. for C15H15NOHCl.0.2H2O: C, 67.90; H, 6.23; N, 5.2 Found: C, 67.69; H, 6.16; N, 5.3.

reactant | (±)-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.06 mmol, 0.40 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=CC=C2 | C22H20O4S
reactant | sodium azide | 2.65 mmol, 0.17 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | C1(=CC=CC=C1)C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C15H13N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.025 g | [Pd] | Pd
product | (±)-1-(7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 0.181 g, 65% | C1(=CC=CC=C1)C1=CC=CC=2CC(OC21)CN | C15H15NO
